US06268391B1
6-Aminoquinoline-5-carboxylic acid hydrazide was dissolved in 10 mL of 2 M hydrochloric acid and heated briefly on a hot plate. The reaction was neutralized by gradual addition of solid sodium bicarbonate and filtered. The collected product was dried under vacuum at 55° C. to give 416 mg (45%) of 1,3-dihydro-pyrrolo[3,2-f]quinoline-2-one as a brown solid. Mass spectrum (negative ion chemical ionization): m/z=183 (60%). 1H NMR (DMSO-d6): δ3.80 (s, 2H), 7.35 (d, J=8.8 Hz, 1H), 7.44 (dd, J=8.4, 4.2 Hz, 1H), 7.88 (d, J=8.8 Hz, 1H), 8.08 (d, J=8.4 Hz, 1H), 8.70 (dd, J=4.2, 1.6 Hz, 1H), 10.57 (br s, 1H).

reactant | 6-Aminoquinoline-5-carboxylic acid hydrazide | NC1=C(C=2C=CC=NC2C=C1)C(=O)NN | C10H10N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 2 M, 10 mL | Cl | ClH
product | 1,3-dihydro-pyrrolo[3,2-f]quinoline-2-one | 416 mg, 45% | C1C(NC=2C1=C1C=CC=NC1=CC2)=O | C11H8N2O
